US07521455B2
(2) Manufacture of 1-cyclopentyl-4-(4-nitrophenoxy)piperidine
4-(4-nitrophenoxy)piperidine (1.03 g, 4.65 mmol) and cyclopentanone (783 mg, 9.31 mmol) were dissolved in a 0.5M methanol solution (20 mL) of zinc(II) chloride and sodium cyanoborohydride, and stirred at room temperature for 10 hours. The solvent was distilled off under reduced pressure, ethyl acetate and 1N sodium hydroxide aqueous solution were added, the mixture was extracted with ethyl acetate, and the organic phase washed with distilled water. After drying with anhydrous sodium sulfate, the product was concentrated, and the target compound (1.31 g, 96%) was thereby obtained as a light brown solid.

reactant | 4-(4-nitrophenoxy)piperidine | 4.65 mmol, 1.03 g | [N+](=O)([O-])C1=CC=C(OC2CCNCC2)C=C1 | C11H14N2O3
reactant | cyclopentanone | 9.31 mmol, 783 mg | C1(CCCC1)=O | C5H8O
solvent | methanol | 0.5M, 20 mL | CO | CH4O
solvent | zinc(II) chloride | [Cl-].[Zn+2].[Cl-]
solvent | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | 1-cyclopentyl-4-(4-nitrophenoxy)piperidine | 1.31 g, 96% | C1(CCCC1)N1CCC(CC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H22N2O3
